*PSPICE MODEL for HBFP-0420 in SOT343
*
.SUBCKT HBFP0420   60      20      40
LL1     20      25      .22NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    25      0       .08PF
LT1     25      30      .20NH
C2T1    30      0       .05PF
*
LLB     30      35      .70NH
CCEB    30      50      .04PF
LL2     40      45      .15NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    45      0       .04PF
LT2     45      50      .10NH
C2T2    50      0       .10PF
*
LLE     50      55      .20NH
CCEC    50      70      .01PF
LL3     60      65      .20NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    65      0       .144PF
LT3     65      70      .50NH
C2T3    70      0       .10PF
*
LLC     70      75      .70PF   
CCBC    30      70      .05PF
* CALL DIE MODEL
XDIE    75      35      55      H0420
.ENDS
*
.SUBCKT H0420   75      20      85      
RBX     20      130     3.74196
RCX     140     75      6.5915
RE      150     85      1.565       
RSE     160     85      1
CCOX    20      140     17.213E-15
CEOX    130     85      6.227E-15
DBC     20      140     DMOD1 3
DBE     130     150     DMOD2 3
DCS     160     140     DMOD3 3
QINT    140     130     150     160     Q405 3   
.ENDS

.MODEL  DMOD1   D(IS=1.40507E-17, CJO=2.393E-14,
+               VJ=.729, M=.44, TNOM=21, N=1, FC=0.8)
.MODEL  DMOD2   D(IS=1E-24, CJO=2.593E-14, VJ=.8971,
+               M=.2292, TNOM=21, N=1.0029, FC=0.8)
.MODEL  DMOD3   D(IS=1E-24, CJO=8.974E-14, VJ=0.6,
+               M=0.42, RS=2.17347E2, FC=0.8, TNOM=21)

.MODEL  Q405    NPN (BF=1E6, IS=4.4746E-18, VA=44,
+    BR=1,ME=0.5063, NF=1, PTF=22, TF=5.3706E-12,
+    CJE= 7.474248E-14, XTF=20, IK=1.4737E-01,
+    PE=0.9907, ISE=7.094E-20, NE=1.006, VTF=0.8,
+    XTB=0.7, ITF=2.21805486E-1, RB=9.30144818,
+    CJC=2.7056E-14, XCJC=0.439790997,
+    PC=0.6775, MC=0.3319, FC=0.8, IKR=1.1E-2, NC=2, VAR=3.37,
+    NR=1.005, TR=4E-9, TNOM=21, IRB=3.029562E-6, RBM=0.1, XTI=3
+    EG=1.17)
                            
* Note: high beta value compensates for current leakage through DBE     